data/mechanism_extracts/JACS/10.1021_jacs.7b03195.json
{"doi": "10.1021_jacs.7b03195", "journal": "JACS", "is_review": false, "rxn_class_summary": "Ni-catalyzed three-component reductive 1,2-dicarbofunctionalization of alkenes with aryl iodides and tertiary alkyl iodides using TDAE as organic reductant", "mechanism_family": ["electrocatalysis_inner_sphere", "radical_polar_crossover", "other"], "electrochemical_role": null, "key_intermediates": [{"name": "ArNi(II)-I (A), from oxidative addition of ArI to Ni(0)", "smiles": null, "role": "reactive"}, {"name": "Tertiary alkyl C-centered radical (C) from Ni(I)-mediated activation of alkyl iodide", "smiles": null, "role": "reactive"}, {"name": "Alkyl-CH2-CHR• radical adduct (D) after addition of alkyl radical to alkene", "smiles": null, "role": "transient"}, {"name": "Ni(III)(Ar)(alkyl-CH2-CHR) species (B) from radical recombination with A", "smiles": null, "role": "reactive"}, {"name": "Ni(I) species regenerating Ni(0)/Ni(II) with TDAE", "smiles": null, "role": "transient"}, {"name": "Secondary alkyl iodide (E) — proposed but ruled out as intermediate", "smiles": null, "role": "off_pathway"}, {"name": "Stoichiometric ArNi(II)Cl complex 43 (from dtbbpy and 4-tBu-C6H4Cl)", "smiles": null, "role": "reactive"}, {"name": "ArNi(II) complex 42 (from Ni(dtbbpy)I2 + 2-iodotoluene + TDAE)", "smiles": null, "role": "reactive"}], "electron_flow": "TDAE reduces Ni(II) to Ni(0), which undergoes oxidative addition into ArI to give ArNi(II) (A); in parallel a Ni(I) species reduces the tertiary alkyl iodide via SET to release an alkyl radical (C) that adds to the alkene giving radical D, which recombines with A to form Ni(III) intermediate B that reductively eliminates the dicarbofunctionalized product and Ni(I), the latter being re-reduced by TDAE.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "significantly reduced reaction efficiency, consistent with radical intermediates"}, {"name": "1,1-diphenylethylene", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "significantly reduced reaction efficiency"}, {"name": "1,4-cyclohexadiene", "smiles": "C1=CCC=CC1", "purpose": "radical_trap", "observation": "significantly reduced reaction efficiency"}, {"name": "Radical clock alkyl iodide 38 (hexenyl-type)", "smiles": null, "purpose": "radical_clock", "observation": "with unactivated alkene, 5-exo cyclization product 39 favored over intermolecular addition to allyl acetate (17%); with acrylonitrile, intermolecular addition product 40 obtained in 45% without 39 — confirms C-centered radical and kinetic competition"}, {"name": "Preformed secondary alkyl iodide 41", "smiles": null, "purpose": "intermediate_trap", "observation": "no reactivity under standard conditions, ruling out secondary alkyl iodide as on-cycle intermediate (path II excluded)"}, {"name": "Stoichiometric ArNi(II) complex 43", "smiles": null, "purpose": "stoichiometric_intermediate", "observation": "with acrylonitrile, tBuI and TDAE gave product 24 in 55% yield, confirming ArNi(II) competence"}, {"name": "Ni(dtbbpy)I2 + 2-iodotoluene + TDAE", "smiles": null, "purpose": "intermediate_trap", "observation": "formed ArNi(II) complex 42, demonstrating TDAE reduces Ni(II) and enables oxidative addition"}, {"name": "Control without ArI / without Ni", "smiles": null, "purpose": "other", "observation": "no reaction in absence of Ni or ArI; without alkyl iodide no reaction; demonstrates all three components required"}], "evidence_types_used": ["radical_clock", "intermediate_trap_BHT", "intermediate_trap_other", "stoichiometric_intermediate", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Authors favor Path I (radical addition to alkene then capture by ArNi(II) to give Ni(III), then reductive elimination). Path II (in situ secondary alkyl iodide E undergoing oxidative addition) is explicitly ruled out by NMR/GC-MS monitoring and by unreactivity of preformed secondary iodide 41. Alternative ArAlkNi(III) pathway via direct recombination of tertiary alkyl radical with A or oxidative addition of ArI to AlkNi(I) is disfavored due to absence of Alk-Ar direct coupling products. Unactivated olefins fail — a coordinating/directing group is required."}
